US05521265
A) Synthesis of 2,3,4,5 -tetramethylcyclopentadienyldimethylchlorosilane
4.0 g (32.8 mmol) of 1,2,3,4-tetramethylcyclopentadiene (F. X. Kohl; P. Jutzi, J. Organomet. Chem. 243 (1983) 119-121; G. Schmitt, S. Ozman, Chemikerzeitung 100 (1976), 143; E. E. Bunel; P. Campos, J. Ruz; L. Valle, Organometallics 7 (1988), 1828-1838; C. M. Fendrick; L. D. Schertz; V. W. Day; T. J. Marks, Organometallics 7, (1988) 1828-1838 and literature cited therein) are dissolved in 50 ml of absolute THF and admixed with 21 ml of n-butyllithium (1.6M in pentane, 33.6 mmol). The mixture is stirred for 2 hours and 4.50 g (33.3 mmol) of dimethyldichlorosilane, dissolved in 30 ml of absolute THF, are then added dropwise at 0° C. The mixture is subsequently stirred for a further 20 hours. After removal of the solvent in vacuo and filtering off the lithium chloride formed during the reaction, the residue is vacuum distilled. Bp: 57°-65° C. (P=0.1 torr).

reactant | 1,2,3,4-tetramethylcyclopentadiene | 32.8 mmol, 4.0 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | n-butyllithium | 33.6 mmol, 1.6M, 21 ml | C(CCC)[Li]
reactant | dimethyldichlorosilane | 33.3 mmol, 4.50 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2,3,4,5 -tetramethylcyclopentadienyldimethylchlorosilane | CC=1C(C(=C(C1C)C)C)[Si](Cl)(C)C | C11H19ClSi
